US07888349B2
A suspension of 11-{[tert-butyl(dimethyl)silyl]oxy}-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine (1.0 g, 2.2 mmol) in anhydrous THF (30 mL) was cooled to −20° C., and tetrabutylammonium fluoride (2.383 mL of a 1 M solution in THF) was slowly added. The reaction was stirred overnight, and a precipitate formed. The cold reaction mixture was filtered, and the isolated precipitate was washed with THF and dried under high vacuum to provide 313.7 mg of 6-amino-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-ol as white crystals, mp 282-283° C.

reactant | 11-{[tert-butyl(dimethyl)silyl]oxy}-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 2.2 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC=2N(C3=C(C(=NC4=CC=CC=C34)N)N2)C1)S(=O)(=O)C | C21H31N5O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-amino-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-11-ol | 313.7 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2CC(CN(C1)S(=O)(=O)C)O | C15H17N5O3S
